US07674807B2
4-Nitro-m-cresol (0.77 g), 2-methanesulfonyl-4,6-bistrifluoromethyl-pyrimidine (1.77 g) and potassium carbonate (1.04 g) were refluxed in acetonitrile (15 ml) for 5 hours. After finishing the reaction, the reaction mixture was poured into ice to separate out crystals. The obtained crystals were filtered and dried to obtain 2-(3-methyl-4-nitrophenoxy)-4,6-bistrifluoromethyl-pyrimidine (1.03 g).

reactant | 4-Nitro-m-cresol | 0.77 g | [N+](=O)([O-])C=1C(=CC(=CC1)O)C | C7H7NO3
reactant | 2-methanesulfonyl-4,6-bistrifluoromethyl-pyrimidine | 1.77 g | CS(=O)(=O)C1=NC(=CC(=N1)C(F)(F)F)C(F)(F)F | C7H4F6N2O2S
reactant | potassium carbonate | 1.04 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 2-(3-methyl-4-nitrophenoxy)-4,6-bistrifluoromethyl-pyrimidine | 1.03 g | CC=1C=C(OC2=NC(=CC(=N2)C(F)(F)F)C(F)(F)F)C=CC1[N+](=O)[O-] | C13H7F6N3O3
